US07582771B2
Synthesis of 4-{2-[2-(2-Acetylamino-ethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]-ethoxy-benzoic Acid Methyl Ester
Bromodiphenylmethane (208.3 g 0.843 mol) and 4-{2-[2-(2-Acetylamino-ethyl)-5-chloro-1H-indol-3-yl]-ethoxy-benzoic acid methyl ester (250.0 g, 0.603 mol) were suspended in acetonitrile (10 L). The suspension was stirred and cooled to −1 C and potassium tert. butoxide (94.6 g 0.843 mol) was added in one portion. the reaction was complete by HPLC analysis after stirring for 2.5 h at −1 C. Water (125 mL) was added to the reaction mixture. The suspension was heated to 50 C and then 8.3 L solvent was removed by vacuum distillation (180 mmHg). Aqueous Potassium hydroxide (84.4 g KOH (87%) in 300 mL of water) was added and the reaction mixture was refluxed for 3 h. The solution was cooled to 35 C and acidified (pH=3) with 4N hydrochloric acid (435 mL). The suspension was stirred for 20 min. at 5 C and the precipitate was collected by filtration. The cake was washed with water (250 mL×3) and ethyl acetate (250 mL) and the wet cake was dried at 70 C/30 mmHg for 36 h to yield 253 g crude product. The solid was suspended with 1 L ethylacetate and stirred and warmed at refluxed for 4 h. This ethylacetate slurry was repeated two times. The wet product was collected by filtration and dried for 16 h at 60 C/30 mmHg to obtain 177.3 g (50%) product. The structure was determined by 1H-NMR. δ(300 MHz, DMSOd6) 1.78 (s, 3H), 2.97 (m, 2H), 3.15-3.25 (m, 4H), 4.22 (t, J=6 Hz, 2H), 6.48 (d, J=9 Hz, 1H), 6.80 (dd, J=2 Hz, J=9 Hz, 1H), 6.87 (d, J=8 Hz, 2H), 7.10-7.13 (m, 4H), 7.26 (s, 1H), 7.31-7.40 (m, 6H), 7.66 (d, J=2 Hz, 1H), 7.85 (d, J=8 Hz, 2H), 8.15 (t, J=5 Hz, 1H) ppm.

reactant | Bromodiphenylmethane | 0.843 mol, 208.3 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | 2-[2-(2-Acetylamino-ethyl)-5-chloro-1H-indol-3-yl]-ethoxy-benzoic acid methyl ester | 0.603 mol, 250.0 g | COC(C1=C(C=CC=C1)OCCC1=C(NC2=CC=C(C=C12)Cl)CCNC(C)=O)=O | C22H23ClN2O4
reactant | potassium tert. butoxide | 0.843 mol, 94.6 g | CC(C)([O-])C.[K+]
reactant | Water | 125 mL | O | H2O
solvent | acetonitrile | 10 L | C(C)#N | C2H3N
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | ethylacetate | 1 L | C(C)OC(C)=O | C4H8O2
product | 2-[2-(2-Acetylamino-ethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]-ethoxy-benzoic Acid Methyl Ester | 177.3 g, 50% | COC(C1=C(C=CC=C1)OCCC1=C(N(C2=CC=C(C=C12)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)CCNC(C)=O)=O | C35H33ClN2O4
